US07314885B2
4-[5-Amino-4-(2,3-dichloro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrole-2-carboxylic acid.
To a solution of 4-[N-(2,3-dichloro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester (Prepared by the same method described above for the preparation of the corresponding difluoro compound) (150 mg, 0.37 mmol) in MeOH (2 mL) was added BrCN (60 mg, 0.57 mmol) at RT. The mixture was stirred at RT for 12 h. The solvent was removed by evaporation, the residue was dissolved in MeOH (4 mL), and the resulting solution was treated with 6N NaOH (1 mL) at 50° C. for 4 h. After cooling to RT, the solution was acidified with 6N HCl. The organic solvent was evaporated, the remaining aqueous solution was diluted with CH3CN, and the inorganic salt was removed by filtration. The filtrate was concentrated under vacuum to give a crude product, which was purified by HPLC for next reaction. MS (ES+): m/e=338.0 (M+H); LC: 2.44 min.

reactant | 4-[N-(2,3-dichloro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)C(NC1=C(C(=CC=C1)Cl)Cl)=NN)S(=O)(=O)C | C14H14Cl2N4O4S
reactant | BrCN | 0.57 mmol, 60 mg | BrC#N | CBrN
solvent | MeOH | 2 mL | CO | CH4O
product | 4-[5-Amino-4-(2,3-dichloro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrole-2-carboxylic acid | NC=1N(C(=NN1)C=1C=C(NC1)C(=O)O)C1=C(C(=CC=C1)Cl)Cl | C13H9Cl2N5O2
